US07960349B2
2-Ethyl-4-Methoxy-phenylboronic acid
A solution of 4-bromo-3-ethyl anisole (94 g, 0.437 mol) in THF (900 ml) was cooled to −78° C. n-Butyl lithium (249 ml, 0.55 mol) was added dropwise at the same temperature. Stirring was continued for 1 hr at −78° C. Tri-n-butyl borate (177 ml, 0.655 mol) was added slowly at −78° C. The cooling bath was removed, the reaction mixture was allowed to warm to 0° C. and was quenched with 1.5 N hydrochloric acid at 0° C. The organic layer was separated. The aqueous layer was extracted with ethylacetate and the combined organic layers were washed with brine and concentrated. The residue obtained was stirred in petroleum ether for 30 min. The solid obtained was filtered and dried under vacuum. Yield: 65 g, 82%, as a white solid.

reactant | 4-bromo-3-ethyl anisole | 0.437 mol, 94 g | BrC1=C(C=C(C=C1)OC)CC | C9H11BrO
reactant | n-Butyl lithium | 0.55 mol, 249 ml | C(CCC)[Li]
reactant | Tri-n-butyl borate | 0.655 mol, 177 ml | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
solvent | THF | 900 ml | C1CCOC1 | C4H8O
product | 2-Ethyl-4-Methoxy-phenylboronic acid | C(C)C1=C(C=CC(=C1)OC)B(O)O | C9H13BO3
